### PR TITLE
Prove `SmoothedChebyshevDirichlet_aux_tsum_integral`

### PR DESCRIPTION
**Pull request by Aaron1011**

### CODE REVIEW

File: PrimeNumberTheoremAnd/MediumPNT.lean [hunk 1]
```diff
@@ -124,7 +179,115 @@ lemma SmoothedChebyshevDirichlet_aux_tsum_integral {SmoothingF : ℝ → ℝ}
...
+  rw [MeasureTheory.integral_tsum]
+  have x_neq_zero: X ≠ 0 := by linarith
+  .
+    intro i
+    by_cases i_eq_zero: i = 0
+    . simp [i_eq_zero]
+      exact aestronglyMeasurable_const
+    .
+      apply Continuous.aestronglyMeasurable
+      -- TODO - why can't this be `fun_prop`?
```
Comment (ajirving) [inline PrimeNumberTheoremAnd/MediumPNT.lean]: I got this to work with fun_prop:

Before the lemma add
```
attribute [fun_prop] Continuous.const_cpow 
```
I wonder why that fun_prop is missing in Mathlib.
You can then do
```
fun_prop (disch := simp[i_eq_zero, x_neq_zero]) 
```

File: PrimeNumberTheoremAnd/MediumPNT.lean [hunk 2]
```diff
@@ -103,12 +103,67 @@ By Lemma \ref{MellinOfSmooth1b} the integrand is $O(1/t^2)$ as $t\rightarrow \in
 \end{proof}
 %%-/
 
+lemma vonMangoldt_aux_sum: ∑' (i : ℕ), ENNReal.ofReal (|Λ i| / ↑i ^ 2) < ⊤ := by
```
Comment (ajirving) [inline PrimeNumberTheoremAnd/MediumPNT.lean]: Could this be deduced from LSeriesSummable_vonMangoldt rather than estimating it directly?

Comment (ajirving) [reply PrimeNumberTheoremAnd/MediumPNT.lean]: Yes it can, try this:
```
  rw [WithTop.lt_top_iff_ne_top]
  apply ENNReal.tsum_coe_ne_top_iff_summable.mpr
  have := (ArithmeticFunction.LSeriesSummable_vonMangoldt (s := 2) (by simp)).norm
  unfold LSeriesSummable LSeries.term at this
  apply Summable.toNNReal
  convert this
  split_ifs with h <;> simp[h]

```

**Comment by Aaron1011** [comment]
@ajirving Thanks! I applied your changes

**Review by AlexKontorovich — APPROVED** [review]
Thanks!!
